US04353919
6-Chloro-2(3H)-benzothiazolone
Prepared analogous to Example 5 from 6-chloro-2-ethoxy-benzothiazole and concentrated hydrochloric acid with a yield of 56% of theory. M.p.: 212°-213° C. (toluene)

reactant | 6-chloro-2-ethoxy-benzothiazole | ClC1=CC2=C(N=C(S2)OCC)C=C1 | C9H8ClNOS
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-2(3H)-benzothiazolone | yield of 56% | ClC1=CC2=C(NC(S2)=O)C=C1 | C7H4ClNOS
